US06492550B2
Methyl 4-tert-Butoxycarbonyl-2-oxobutanoate
3-Bromopropanoic acid, tert-butyl ester (2.2 g, 10.6 mmol), activated zinc (1.25 g in 25 ml of THF) and methyl chlorooxoacetate (1.4 ml, 11.4 mmol) were reacted by the same procedure as described in Example 1 for the preparation of methyl 7-tert-butyoxycarbonyl-2-oxoheptanoate to give the crude title material (1.65 g) as a colorless liquid which is used directly in next step.

reactant | 3-Bromopropanoic acid, tert-butyl ester | 10.6 mmol, 2.2 g | BrCCC(=O)OC(C)(C)C | C7H13BrO2
reactant | methyl chlorooxoacetate | 11.4 mmol, 1.4 ml | ClC(C(=O)OC)=O | C3H3ClO3
reactant | methyl 7-tert-butyoxycarbonyl-2-oxoheptanoate | C(C)(C)(C)OC(=O)CCCCCC(C(=O)OC)=O | C13H22O5
catalyst | zinc | 25 ml, 1.25 g | [Zn] | Zn
product | Methyl 4-tert-Butoxycarbonyl-2-oxobutanoate | 1.65 g | C(C)(C)(C)OC(=O)CCC(C(=O)OC)=O | C10H16O5
